US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid was condensed with 2,4-dichloroaniline to yield 2-[(2,4-dichlorophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2,4-dichloroaniline | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
product | 2-[(2,4-dichlorophenyl)amino]phenylacetic acid | ClC1=C(C=CC(=C1)Cl)NC1=C(C=CC=C1)CC(=O)O | C14H11Cl2NO2
